US09062015B2
FS203: 4-piperazin-1-yl-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyrimidine
The above compound is prepared analogously to FS201 starting from 4-[2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyrimidin-4-yl]piperazine-1-carboxylic acid tert-butyl ester. Product is the hydrochloride.

reactant | 4-[2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyrimidin-4-yl]piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=NC=C1)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C27H38N4O2
reactant | hydrochloride | Cl | ClH
product | 4-piperazin-1-yl-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyrimidine | N1(CCNCC1)C1=NC(=NC=C1)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C22H30N4
